US04690936
By substituting N,S-diacetyl-penicillamine for the N,S-diacetyl-D,L-cysteine in the procedure of Example 53, N-acetyl-3-acetylthiovalyl-L-proline t-butyl ester is obtained.

reactant | N,S-diacetyl-penicillamine | C(C)(=O)N[C@@H](C(C)(C)SC(C)=O)C(=O)O | C9H15NO4S
reactant | N,S-diacetyl-D,L-cysteine | C(C)(=O)NC(CSC(C)=O)C(=O)O | C7H11NO4S
product | N-acetyl-3-acetylthiovalyl-L-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(C)=O)C(C)(C)SC(C)=O)=O)=O | C18H30N2O5S
